US05225207
2-Acetylamino-2-acetylaminomethyl-bicyclo[2.2.1]heptane (3 g), in the form of a mixture of the exo and endo racemates in a ratio of (4/1), in a 6N solution (100 cc) of hydrochloric acid in water is refluxed for 8 hours. The mixture is concentrated to dryness under reduced pressure (5.2 kPa), the residue from the evaporation is taken up in ethanol (50 cc) and diisopropyl ether (150 cc) is added dropwise. The precipitate obtained is drained on a glass frit, washed with a mixture of ethanol and diisopropyl ether (25/75 by volume) (20 cc) and then with diisopropyl ether (2×20 cc) and finally dried in an oven at 80° C. 2-Amino-2-aminomethyl-bicyclo[2.2.1]heptane dihydrochloride (2.53 g) is thus obtained in the form of white crystals which melt at 262°-4° C.

reactant | 2-Acetylamino-2-acetylaminomethyl-bicyclo[2.2.1]heptane | 3 g | C(C)(=O)NC1(C2CCC(C1)C2)CNC(C)=O | C12H20N2O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 2-Amino-2-aminomethyl-bicyclo[2.2.1]heptane dihydrochloride | 2.53 g | Cl.Cl.NC1(C2CCC(C1)C2)CN | InChI=1S/C8H16N2.2ClH/c9-5-8(10)4-6-1-2-7(8)3-6;;/h6-7H,1-5,9-10H2;2*1H
